US07825256B2
1-Acetylguanidine (7.20 g, 71.0 mmol) was dissolved in THF (100 mL). The solution was cooled to 0° C. and NaH (1.90 g, 80.0 mmol) was added to the reaction in small batches over 5 mins. Next, 2-ethoxythiocarbonyl-pyrrolidine-1-carboxylic acid benzyl ester (19.6 g, 66.9 mmol) in THF (50 mL) was added to the reaction dropwise over 30 minutes while maintaining the temperature between 0-5° C. The reaction was allowed to return to room temperature, while stirring an additional 12 hours. The product was precipitated by addition of petroleum ether. The organic layer was decanted off and the solid was retained and redissolved in water (300 mL). The pH was adjusted to pH=3 by addition of acetic acid. The resulting solution was transferred to a separatory funnel and extracted with DCM (3×250 mL). The organic layers were combined, dried over MgSO4 and concentrated under vacuo to afford 13.0 g (56%) of 2-(N′-acetyl-guanidinocarbothioyl)-pyrrolidine-1-carboxylic acid benzyl ester.

reactant | 1-Acetylguanidine | 71.0 mmol, 7.20 g | C(C)(=O)NC(=N)N | C3H7N3O
reactant | NaH | 80.0 mmol, 1.90 g | [H-].[Na+]
reactant | 2-ethoxythiocarbonyl-pyrrolidine-1-carboxylic acid benzyl ester | 66.9 mmol, 19.6 g | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(=S)OCC | C15H19NO3S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(N′-acetyl-guanidinocarbothioyl)-pyrrolidine-1-carboxylic acid benzyl ester | 13.0 g, 56% | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(=S)NC(=NC(C)=O)N | C16H20N4O3S
